US04242507
In dichloromethane (70 ml) are added 1-hydroxy-1,2,3-benzotriazole (3.4 g) and further triethylamine (3.7 ml). To the solution is added dropwise a solution of 2,4,6-trimethylbenzenesulfonyl chloride (4.5 g) is dichloromethane (20 ml) at room temperature, and the mixture is stirred for 1 hour. The reaction mixture is washed with water and dried over anhydrous magnesium sulfate, and the solvent is distilled off. The resulting residue is washed with ethyl acetate-n-hexane (1:1; 50 ml) and dried to give colorless crystals of 1-(2,4,6-trimethylbenzenesulfonyloxy)-1,2,3-benzotriazole (5.5 g), melting point: 128°-130° C. The product is recrystallized from dichloromethane-n-hexane to give colorless prisms, melting point: 130°-131° C.

reactant | 1-hydroxy-1,2,3-benzotriazole | 3.4 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 3.7 ml | C(C)N(CC)CC | C6H15N
reactant | 2,4,6-trimethylbenzenesulfonyl chloride | 4.5 g | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)Cl | C9H11ClO2S
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1-(2,4,6-trimethylbenzenesulfonyloxy)-1,2,3-benzotriazole | 5.5 g | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)ON1N=NC2=C1C=CC=C2 | C15H15N3O3S
